US07115591B2
2-(2-Hydroxy-2-phenylethyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
A mixture of the product from Example 46, 2-phenacyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (700 mg, 1.5 mmol), and sodium borohydride (69 mg, 1.8 mmol) in ethanol (200 mL), was stirred at 40° C. for 2 hours. The reaction mixture was then concentrated in vacuo and the residue was partitioned between ethyl acetate and 2 N aqueous hydrochloric acid. The organic layer was washed with brine, dried over MgSO4, and filtered. The filtrate was concentrated in vacuo to provide a pale yellow solid which was crystallized from ethyl acetate/hexanes to provide the title compound as white crystals (yield: 540 mg, 78%). mp 205–207° C. 1H NMR (300 MHz, CDCl3) δ 3.07 (s, 3H), 3.75 (br s, 1H), 4.63–4.47 (m, 2H), 5.33 (dd, J=9 Hz, 3 Hz, 1H), 7.00 (t, J=9 Hz, 2H), 7.20 (dd, J=9 Hz, 3 Hz, 2H), 7.30–7.45 (m, 5H), 7.52 (d, J=9 Hz, 2H), 7.91 (s, 1H), 7.91 (d, J=9 Hz, 2H). MS (DCI/NH3) m/z 465 (M+H)+. Anal. calc. for C25H21FN2O4S: C, 64.64; H, 4.55; N, 6.03. Found: C, 64.34; H, 4.66; N, 5.93.

reactant | 2-phenacyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 1.5 mmol, 700 mg | C(C(=O)C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C25H19FN2O4S
reactant | sodium borohydride | 1.8 mmol, 69 mg | [BH4-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-(2-Hydroxy-2-phenylethyl)-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | yield: 540 mg, 78% | OC(CN1N=CC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1 | C25H21FN2O4S
